US04787929
A solution of 8.6 g (0.05 mol) of 2-bromo-propionyl chloride in 30 ml of methylene chloride was added dropwise to a mixture which had been cooled to 0°-10° C. and consisted of 8.4 g (0.05 mol) of diethyl hydroxymethanephosphonate, 6.1 g (0.06 mol) of triethylamine and 30 ml of methylene chloride. The reaction mixture was stirred for 20 hours at 10°-20° C., washed with aqueous sodium bicarbonate solution, dried, filtered, and evaporated down under reduced pressure. 4.9 g (32% of theory) of diethyl 2-bromopropionyloxymethanephosphonate were obtained as an oily residue.

reactant | 2-bromo-propionyl chloride | 0.05 mol, 8.6 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | diethyl hydroxymethanephosphonate | 0.05 mol, 8.4 g | OCP(OCC)(=O)OCC | C5H13O4P
reactant | triethylamine | 0.06 mol, 6.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | diethyl 2-bromopropionyloxymethanephosphonate | 4.9 g, 32% | BrC(C(=O)OCP(OCC)(=O)OCC)C | C8H16BrO5P
